US04652563
2-(4-Hydroxy-3-methylphenyl)ethanol (18 g), benzyl chloride (15.4 g) and anhydrous potassium carbonate (90 g) were stirred under reflux in methyl ethyl ketone (500 ml) for 20 hours. The reaction mixture was cooled and evaporated under reduced pressure to give an oily residue. This residue was dissolved in dichloromethane, washed with 2N sodium hydroxide (2×), washed with brine (2×), dried (MgSO4), and evaporated under reduced pressure to give an oil. This was triturated under petroleum ether (40°-60°) (200 ml) with cooling to afford 2-(4-benzyloxy-3-methylphenyl)ethanol as a white solid (26.0 g).

reactant | 2-(4-Hydroxy-3-methylphenyl)ethanol | 18 g | OC1=C(C=C(C=C1)CCO)C | C9H12O2
reactant | benzyl chloride | 15.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 500 ml | C(C)C(=O)C | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-benzyloxy-3-methylphenyl)ethanol | 26.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCO)C | C16H18O2
